US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (1.2 g) is dissolved in acetone (50 ml). To the solution are added 1-methyl-5-(8-chlorooctyl)thio-1,2,3,4-tetrazole (4.1 g) and potassium carbonate (1.5 g) and the mixture is refluxed for 4 hours. Acetone is distilled off and water is added to the residue. The mixture is extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over magnesium sulfate. Chloroform is distilled off and the residue is recrystallized from ethyl acetate-hexane to obtain 1-methyl-5-[8-(1-methyl-1,2,3,4-tetrazol-5-yl)thiooctyl]thio-1,2,3,4-tetrazole (2.0 g) as colorless needles, m.p. 52°-54° C.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1S | C2H4N4S
reactant | 1-methyl-5-(8-chlorooctyl)thio-1,2,3,4-tetrazole | 4.1 g | CN1N=NN=C1SCCCCCCCCCl | C10H19ClN4S
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[8-(1-methyl-1,2,3,4-tetrazol-5-yl)thiooctyl]thio-1,2,3,4-tetrazole | 2.0 g | CN1N=NN=C1SCCCCCCCCSC1=NN=NN1C | C12H22N8S2
